US04997836
In N,N-dimethylformamide (2 ml) is dissolved 1-benzyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2-methanol (1.0 g). The solution is added dropwise to a mixture of sodium hydride (0.15 g) and N,N-dimethylformamide (4 ml) taking 5 minutes at 0 ° C while stirring. To the mixture is further added ethyl iodide (0.5 g) at 0° C., followed by stirring for 30 minutes at room temperature. The reaction mixture is poured into icewater and extracted with ethyl acetate. The organic layer is washed with water and dried, then the solvent is distilled off under reduced pressure to afford 1-benzyl-2-ethoxymethyl-4-(3,4,5trimethoxybenzoyl)piperazine as a colorless oily product (1.0 g). This product is led to its hydrochloride, followed by recrystallization from acetone to give colorless needles, m.p. 130-132° C.

reactant | 1-benzyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2-methanol | 1.0 g | C(C1=CC=CC=C1)N1C(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CO | C22H28N2O5
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | ethyl iodide | 0.5 g | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-2-ethoxymethyl-4-(3,4,5trimethoxybenzoyl)piperazine | C(C1=CC=CC=C1)N1C(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)COCC | C24H32N2O5
